US07572797B2
5-Bromo-7-chloro-2,3-dihydro-benzo[1,4]dioxine
To a solution of 1,2-dibromoethane (1.44 ml, 16 mmol) and tetrabutylammonium bromide (96 mg, 2.5 mol %) in water (8 ml) at reflux under nitrogen was added a mixture of 3-bromo-5-chloro-benzene-1,2-diol (Preparation 21, 2.68 g, 12 mmol) and NaOH (1.06 g, 26.2 mmol) in water (10 ml) over 4 hours, and the resultant mixture stirred overnight. The reaction mixture was cooled to room temperature and diluted with water (100 ml). The mixture was extracted with Et2O (3×100 ml), and the combined organic extracts were concentrated in vacuo. Purification by flash chromatography (pentane:dichloromethane 9:1) afforded the desired product as a yellow oil (1.78 g, 60%) which crystallised on standing to a yellow solid.

reactant | 1,2-dibromoethane | 16 mmol, 1.44 ml | BrCCBr | C2H4Br2
reactant | 3-bromo-5-chloro-benzene-1,2-diol | 12 mmol, 2.68 g | BrC1=C(C(=CC(=C1)Cl)O)O | C6H4BrClO2
reactant | NaOH | 26.2 mmol, 1.06 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 96 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 8 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-Bromo-7-chloro-2,3-dihydro-benzo[1,4]dioxine | 1.78 g, 60% | BrC1=CC(=CC=2OCCOC21)Cl | C8H6BrClO2
